US05614530
To 2-iodobenzoic acid (54 g, 0.218 mol) in DMF (570 ml) was added K2CO3 (33.4 g, 0.242 mol), then 5-amino-1-isopropylpyrazole (27.3 g, 0.218 mol) and finally copper (II) acetate monohydrate (0.9 g, 4.5 mmol). The reaction mixture was refluxed overnight and then the DMF was evaporated. The residue was poured into ice/water and then the mixture was acidified with acetic acid and concentrated HCl to a pH of about 4. A precipitate formed which was collected by filtration, washed with water and dried in a vacuum oven at 40° C. to afford 52 g (97.2%) of N-(1-isopropylpyrazol-5-yl)anthranilic acid.

reactant | 2-iodobenzoic acid | 0.218 mol, 54 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | K2CO3 | 0.242 mol, 33.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-amino-1-isopropylpyrazole | 0.218 mol, 27.3 g | NC1=CC=NN1C(C)C | C6H11N3
solvent | DMF | 570 ml | CN(C)C=O | C3H7NO
catalyst | copper (II) acetate monohydrate | 4.5 mmol, 0.9 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-(1-isopropylpyrazol-5-yl)anthranilic acid | 52 g, 97.2% | C(C)(C)N1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C13H15N3O2
